US05580866
A mixture of 2,3,4,5-tetrahydro-1,4-benzothiazepine (4.56 g), formic acid (20 ml) and toluene (60 ml) was heated under reflux at 90° C. for four hours and then at 120° C. for a further three hours. The solvent was removed from the mixture by evaporation at reduced pressure. Purification of the residue by flash chromatography using dichloromethane as eluent gave 4-formyl-2,3,4,5-tetrahydro-1,4-benzothiazepine, which was recrystallised from hexane. Yield 3.73 g (m.p. 84°-87° C.).

reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine | 4.56 g | S1CCNCC2=C1C=CC=C2 | C9H11NS
reactant | formic acid | 20 ml | C(=O)O | CH2O2
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 4-formyl-2,3,4,5-tetrahydro-1,4-benzothiazepine | C(=O)N1CCSC2=C(C1)C=CC=C2 | C10H11NOS
